US04287085
24.6 g (0.15 mol) of p-n-pentylphenol was reacted with 24.5 g (0.153 mol) bromine in glacial acetic acid to yield 32.6 g of 2-bromo-4-n-pentylphenol by vacuum distillation or a yield of 89.5%.

reactant | p-n-pentylphenol | 0.15 mol, 24.6 g | C(CCCC)C1=CC=C(C=C1)O | C11H16O
reactant | bromine | 0.153 mol, 24.5 g | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-bromo-4-n-pentylphenol | 32.6 g, yield of 89.5% | BrC1=C(C=CC(=C1)CCCCC)O | C11H15BrO
